US07524845B2
2-Chloro-3-formylpyridine (15.02 g, 106 mmol, 1 equiv), hydrazine (10 mL, excess), and dioxane (90 mL) were combined in a sealed tube and heated at 150° C. for 16 hr. After cooling to room temperature, the solvent was evaporated in vacuo to provide a crude residue which was diluted with dichloromethane (600 mL). The organic solution was washed with water (50 mL), brine (50 mL) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to provide 1H-pyrazolo[3,4-b]pyridine as a yellow powder which was used without further purification: LCMS (ES) M+H 120.3, Rf 0.20 min (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C., 1 ml/min flow rate, a 2.5 min gradient of 20% to 100% B with a 1.1 min wash at 100% B; A=0.1% formic acid /5% acetonitrile /94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile).

reactant | 2-Chloro-3-formylpyridine | 106 mmol, 15.02 g, 1 equiv | ClC1=NC=CC=C1C=O | C6H4ClNO
reactant | hydrazine | 10 mL | NN | H4N2
reactant | dioxane | 90 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 1H-pyrazolo[3,4-b]pyridine | N1N=CC=2C1=NC=CC2 | C6H5N3
